2146-09-17 07:38:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
 ULTRASOUND - At [**2146-9-16**] 06:04 PM
   abd
 TUNNELED (HICKMAN) LINE - START [**2146-9-16**] 08:18 PM
   - Started on daptomycin, meropenam, cipro, and micafungin
   - IR:  new double lumen tunnelled line placed, unable to place
   temporary line through stent
   - FeNa 2.2%, neg urine eos
   - Abd US--Prelim:  small amount of free fluid in morrisons pouch.
   prominent CBD measuring 9mm, unchanged from prior study. limited panc.
   normal kidneys.
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   blisters/paper
   Iodine; Iodine Containing
   Hives; Nausea/V
   Vancomycin
   Rash; red man s
   Last dose of Antibiotics:
   Micafungin - [**2146-9-16**] 05:26 PM
   Ciprofloxacin - [**2146-9-16**] 06:30 PM
   Daptomycin - [**2146-9-16**] 09:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2146-9-17**] 12:17 AM
   Heparin Sodium (Prophylaxis) - [**2146-9-17**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-9-17**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98.1
   HR: 103 (103 - 121) bpm
   BP: 78/38(47) {75/31(43) - 116/56(72)} mmHg
   RR: 16 (12 - 37) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  7,459 mL
                                                                  2,074 mL
   PO:
             TF:
   IVF:
                                                                  1,459 mL
                                                                  2,074 mL
   Blood products:
   Total out:
                                                                    915 mL
                                                                    290 mL
   Urine:
                                                                    305 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
                                                                    350 mL
   Balance:
                                                                  6,544 mL
                                                                  1,784 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///18/
   Physical Examination
   General Appearance: No(t) Well nourished
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   RUL)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, septic embolic to fingers and toes
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   132 K/uL
   7.8 g/dL
   109 mg/dL
   1.1 mg/dL
   18 mEq/L
   4.2 mEq/L
   18 mg/dL
   113 mEq/L
   139 mEq/L
   24.1 %
   8.8 K/uL
        [image002.jpg]
                            [**2146-9-17**]  03:43 AM
   WBC
   8.8
   Hct
   24.1
   Plt
   132
   Cr
   1.1
   Glucose
   109
   Other labs: Lactic Acid:2.3 mmol/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.0 mg/dL
   Imaging: Abd US:  small amount of free fluid in morrisons pouch.
   prominent CBD measuring 9mm, unchanged from prior study. limited panc.
   normal kidneys.
   Microbiology: [**2146-9-16**] 12:55 pm BLOOD CULTURE
      Blood Culture, Routine (Preliminary):
         GRAM NEGATIVE ROD(S).
      Aerobic Bottle Gram Stain (Final [**2146-9-17**]):
         REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] @ 6:15A [**2146-9-17**].
         GRAM NEGATIVE RODS.
      Anaerobic Bottle Gram Stain (Final [**2146-9-17**]):    GRAM NEGATIVE RODS.
   UCx, catheter tip cx pending
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SHOCK, SEPTIC
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   47 yo F with [**Location (un) 2455**] syndrome s/p multiple surgeries with resultant
   short gut syndrome on TPN since [**2123**] c/b with multiple line infections
   and clotted veins who presents with sepsis and suspicion of septic
   emboli.
   # Septic shock:  Pt is hypotensive with 18% bandemia, lactate of 4.3.
   She has a long history of line-associated infections.  Exam findings
   and recent head CT findings concerning for septic emboli.  Had negative
   [**Year (4 digits) **] during last admission that did not show vegetations but has not had
   a TEE.  Line was exchanged [**2146-7-29**].
   - f/u blood cultures for sensitivities
   - continue daptomycin, meropenam, cipro, and micafungin
   - IVFs prn for MAP goal of 50.  If needed, levophed.
   - Repeat [**Last Name (LF) **], [**First Name3 (LF) 178**] need TEE
   - hold TPN
   - ID following, appreciate recs
   - bolus and assess for fluid responsiveness
   - repeat CXR
   # Hypoxia:  No sig. pathology on CXR.  Would need to invoke both
   R-sided and L-sided endocarditis.  Sister reports patient has
   aspiration events at home and was planning for an outpatient EGD, whcih
   repeatedly has been cancelled due to hospitalizations.
   - consider CT chest
   -would not heparinize [**12-27**] septic emboli
   # Multiple line-related venous thromboses, h/o PE in [**3-3**]:  Pt is not
   on Coumadin due to antibiotic interactions. Her Lovenox was stopped in
   the past due to bleeding injections sites, per OMR.
   - restart plavix if not intending to revise the line
   -would not heparinize [**12-27**] septic emboli unless head imaging negative
   # Acute renal failure:  Her baseline Cr is 0.7.  Likely septic embolic,
   may also be ATN, interstitial nephritis.  FeNa 2.2%.  Neg. urine eos.
   - trend with IVFs
   - renally dose meds
   - avoid nephrotoxins
   - fluid challenge and monitor UOP
   # Transaminitis:  Cholestatic pattern.
   - trend LFTs
   - RUQ ultrasound
 unrevealing prelim, f/u final
   # HCT drop:  Received several liters of IVFs and hemoconcentrated on
   admission.  Unclear of blood loss in IR.  Transfuse for HCT<21
   - typed and screened
   - PM CBC
   - DIC labs
   FEN: IVFs, hold TPN, replete electrolytes
   Prophylaxis:  heparin sq
   Access: Hickman
   Code: DNR/DNI
   Communication: Patient and HCP [**Name (NI) 4065**] [**Name (NI) 3299**] (sister) [**Telephone/Fax (1) 10641**]
   (cell), [**Telephone/Fax (1) 10642**] (home), [**Telephone/Fax (1) 10643**] (work)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2146-9-16**] 08:18 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2146-09-17 09:34:00 Physician Attending Progress Note
Chief Complaint: hypotension, endovascular infection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47F with [**Location (un) **] syndrome, s/p multiple gut resections on TBN since
   [**2123**], very difficult access, presented with hypotension and recent new
   word-finding difficulties with hypodensities in the brain CT. Presented
   with blue toes and n/v:
   24 Hour Events:
 ULTRASOUND - At [**2146-9-16**] 06:04 PM
   abd
 TUNNELED (HICKMAN) LINE - START [**2146-9-16**] 08:18 PM
   - IR:  new double lumen tunnelled line placed, unable to place
   temporary line through stent
   - FeNa 2.2%, neg urine eos
   - Abd US--Prelim:  small amount of free fluid in morrisons pouch.
   prominent CBD measuring 9mm, unchanged from prior study. limited panc.
   normal kidneys.
   -neuro stable
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   blisters/paper
   Iodine; Iodine Containing
   Hives; Nausea/V
   Vancomycin
   Rash; red man s
   Last dose of Antibiotics:
   Micafungin - [**2146-9-16**] 05:26 PM
   Ciprofloxacin - [**2146-9-16**] 06:30 PM
   Daptomycin - [**2146-9-16**] 09:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-9-17**] 02:00 AM
   Morphine Sulfate - [**2146-9-17**] 07:59 AM
   Other medications:
   sqh, fent, [**Last Name (LF) **], [**First Name3 (LF) **], [**Last Name (un) 430**], cipro,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Parenteral nutrition
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Genitourinary: Foley
   Endocrine: Hyperglycemia
   Heme / Lymph: No(t) Lymphadenopathy
   Psychiatric / Sleep: No(t) Suicidal
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-9-17**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37
C (98.6
   HR: 103 (102 - 121) bpm
   BP: 98/62(69) {75/31(43) - 116/62(72)} mmHg
   RR: 22 (12 - 37) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  7,459 mL
                                                                  2,089 mL
   PO:
             TF:
   IVF:
                                                                  1,459 mL
                                                                  2,089 mL
   Blood products:
   Total out:
                                                                    915 mL
                                                                    840 mL
   Urine:
                                                                    305 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
                                                                    350 mL
   Balance:
                                                                  6,544 mL
                                                                  1,249 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 90%
   ABG: ///18/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: R base)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, painful raised lesions in multiple upper and lower
   extremities.
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   132 K/uL
   109 mg/dL
   1.1 mg/dL
   18 mEq/L
   4.2 mEq/L
   18 mg/dL
   113 mEq/L
   139 mEq/L
   24.1 %
   8.8 K/uL
        [image002.jpg]
                            [**2146-9-17**]  03:43 AM
   WBC
   8.8
   Hct
   24.1
   Plt
   132
   Cr
   1.1
   Glucose
   109
   Other labs: ALT / AST:71/51, Alk Phos / T Bili:323/0.4, Lactic Acid:2.3
   mmol/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: ua: hematuria
   Imaging: abd us: Preliminary Report !! PFI !!
   small amount of free fluid in morrisons pouch. prominent CBD measuring
   9mm,
   unchanged from prior study. limited panc. normal kidneys.
   cxr: pending
   Microbiology: bcx: GNRs in all bottles so far
   Assessment and Plan
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SHOCK, SEPTIC
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   47F with recurrent line infection, here with sepsis and septic emboli
   with bcx positive for GNRs, awaiting speciation.
   She is on broad spectum antibiotics. Althouth there is a source, she
   remians tenuous. Will check fluid status with cxr and will continue
   fluid boluses. Awaiting [**Year (4 digits) **], but may need a TEE. ID is following. Will
   check DIC lab and
   Hypoxia etiology is unclear. Likely shunt physiology in the setting of
   atelectasis. Possible septic emboli? Will repeat CXR and monitor volume
   status, and await [**Year (4 digits) **]. High risk for aspiration; likely a contributing
   factor.
   History of PEs but did not tolerate outpatient lovenox. Still concern
   for PE, but likely has recent septic emboli to the brain. She would
   need another head CT before consideration of any aggressive systemic
   anticoagulation.
   ARF appears to be resolving with fluid hydration.  If remains oliguric
   despite adequate fluid resuscitation will need to dopplers of kidney.
   ICU Care
   Nutrition: npo for now
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2146-9-16**] 08:18 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent: 45

2146-09-18 10:58:00 Physician Attending Progress Note
Chief Complaint: bacteremia
   HPI:
   47F with gardners syndrome, on tpn since [**2123**], with recurrent line
   infections, presents with gnr bacteremia, hd stable:
   24 Hour Events:
   -abd ct no bleeding but RLL pna
   -hct stable
   History obtained from Patient
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   blisters/paper
   Iodine; Iodine Containing
   Hives; Nausea/V
   Vancomycin
   Rash; red man s
   Last dose of Antibiotics:
   Micafungin - [**2146-9-17**] 05:00 PM
   Daptomycin - [**2146-9-17**] 08:08 PM
   Ciprofloxacin - [**2146-9-18**] 05:27 AM
   Meropenem - [**2146-9-18**] 07:57 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2146-9-18**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2146-9-18**] 10:05 AM
   Other medications:
   sqh, fent patch, dapto, mica, cipro, [**Last Name (un) 430**], morphine prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: Dry mouth, No(t) OG / NG tube
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Endocrine: Hyperglycemia
   Psychiatric / Sleep: No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-9-18**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.2
   HR: 86 (80 - 98) bpm
   BP: 97/62(69) {76/38(47) - 118/62(71)} mmHg
   RR: 15 (9 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,463 mL
                                                                    578 mL
   PO:
             TF:
   IVF:
                                                                  3,839 mL
                                                                    578 mL
   Blood products:
                                                                    624 mL
   Total out:
                                                                  1,680 mL
                                                                  1,080 mL
   Urine:
                                                                    590 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,783 mL
                                                                   -502 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   General Appearance: Thin, No(t) Anxious
   Head, Ears, Nose, Throat: Poor dentition
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, multiple scars
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, tender petechiae
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   123 K/uL
   84 mg/dL
   0.8 mg/dL
   19 mEq/L
   3.6 mEq/L
   18 mg/dL
   112 mEq/L
   139 mEq/L
   29.1 %
   8.3 K/uL
        [image002.jpg]
                            [**2146-9-17**]  03:43 AM
                            [**2146-9-17**]  11:38 AM
                            [**2146-9-18**]  01:38 AM
   WBC
   8.8
   5.8
   8.3
   Hct
   24.1
   21.4
   29.1
   Plt
   132
   101
   123
   Cr
   1.1
   0.8
   Glucose
   109
   84
   Other labs: PT / PTT / INR:12.2/33.5/1.0, ALT / AST:55/34, Alk Phos / T
   Bili:271/0.7, Differential-Neuts:77.5 %, Lymph:12.3 %, Mono:3.7 %,
   Eos:6.3 %, Fibrinogen:338 mg/dL, Lactic Acid:2.3 mmol/L, LDH:279 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Imaging: apct:
   IMPRESSION:
   1. No evidence of large retroperitoneal bleed.
   2. Extensive perivascular fat stranding and small amount of free fluid
   within
   the pelvis which measures simple.
   3. Right lower lobe consolidation concerning for infection and less
   likely
   atelectasis. Small bilateral pleural effusions.
   4. Prominent mesenteric and retroperitoneal lymphadenopathy, not
   significantly changed.
   Microbiology: bcx: GNR, [**Last Name (un) **] to cipro and [**Last Name (un) 430**]
   Assessment and Plan
   47F with gardners syndrome, on tpn since [**2123**], with recurrent line
   infections, presents with gnr bacteremia, hd stable, currently on broad
   antimicrobials. GNR cultures are awaiting speciation. New evidence of
   RLL PNA. There are no evidence of ongoing sepsis at this time. Will
   contintue the current antibiotics and discuss with ID when to change
   the antibiotics.
   Awaiting additional studies tomorrow, including TTE, and possible TEE.
   Checking serveillance cultures. Despite a concern for purpura
   fulminans, and only possible benefit of anticoagulation, will hold off
   on anticoagulation given possible septic emboli to the brain.
   HCT is now stable and no evidence of ongoing DIC.
   History of PE is concerning, although unable to anticoagulate in the
   past and discussion above.
   ICU Care
   Nutrition: will discuss with ID / Nutrition when safe to restart TPN.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2146-9-16**] 08:18 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition : Transfer to floor
   Total time spent: 35 minutes

2146-09-19 07:36:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   24 Hour Events:
 BLOOD CULTURED - At [**2146-9-19**] 04:03 AM
   -called out to floor but then became disoriented with speech-finding
   difficulties (similar to prior admission) so stayed in MICU
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   blisters/paper
   Iodine; Iodine Containing
   Hives; Nausea/V
   Vancomycin
   Rash; red man s
   Last dose of Antibiotics:
   Micafungin - [**2146-9-18**] 04:59 PM
   Ciprofloxacin - [**2146-9-18**] 06:05 PM
   Daptomycin - [**2146-9-18**] 08:00 PM
   Meropenem - [**2146-9-19**] 02:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2146-9-19**] 12:10 AM
   Heparin Sodium (Prophylaxis) - [**2146-9-19**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-9-19**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 80 (79 - 92) bpm
   BP: 91/56(64) {86/52(61) - 105/71(78)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,190 mL
                                                                    256 mL
   PO:
             TF:
   IVF:
                                                                  1,190 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                  1,450 mL
   Urine:
                                                                    905 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -915 mL
                                                                 -1,195 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   RLL)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, septic emboli to fingertips and toes
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   139 K/uL
   9.4 g/dL
   69 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.6 mEq/L
   15 mg/dL
   107 mEq/L
   139 mEq/L
   29.0 %
   5.2 K/uL
        [image002.jpg]
                            [**2146-9-17**]  03:43 AM
                            [**2146-9-17**]  11:38 AM
                            [**2146-9-18**]  01:38 AM
                            [**2146-9-19**]  03:52 AM
   WBC
   8.8
   5.8
   8.3
   5.2
   Hct
   24.1
   21.4
   29.1
   29.0
   Plt
   132
   101
   123
   139
   Cr
   1.1
   0.8
   0.7
   Glucose
   109
   84
   69
   Other labs: PT / PTT / INR:11.9/35.9/1.0, ALT / AST:55/34, Alk Phos / T
   Bili:271/0.7, Differential-Neuts:77.5 %, Lymph:12.3 %, Mono:3.7 %,
   Eos:6.3 %, Fibrinogen:338 mg/dL, Lactic Acid:2.3 mmol/L, LDH:279 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.5 mg/dL, PO4:2.9 mg/dL
   Microbiology: [**2146-9-16**] 12:55 pm BLOOD CULTURE
      Blood Culture, Routine (Preliminary):
         GRAM NEGATIVE ROD(S).    PRELIMINARY SENSITIVITY.
            These preliminary susceptibility results are offered to help
   guide
            treatment; interpret with caution as final susceptibilities
   may
            change. Check for final susceptibility results in 24 hours.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                GRAM NEGATIVE ROD(S)
                                |
   AMIKACIN--------------       S
   AMPICILLIN------------       R
   AMPICILLIN/SULBACTAM--       R
   CIPROFLOXACIN---------       S
   GENTAMICIN------------       S
   MEROPENEM-------------       S
   PIPERACILLIN/TAZO-----       R
   TOBRAMYCIN------------       S
      Aerobic Bottle Gram Stain (Final [**2146-9-17**]):
         REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] @ 6:15A [**2146-9-17**].
         GRAM NEGATIVE RODS.
      Anaerobic Bottle Gram Stain (Final [**2146-9-17**]):    GRAM NEGATIVE RODS.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ANEMIA, OTHER
 ALTERATION IN NUTRITION
 BACTEREMIA
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SHOCK, SEPTIC
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   47 yo F with [**Location (un) 2455**] syndrome s/p multiple surgeries with resultant
   short gut syndrome on TPN since [**2123**] c/b with multiple line infections
   and clotted veins who presents with sepsis and suspicion of septic
   emboli.
   # Septic shock:  Pt is hypotensive with 18% bandemia, lactate of 4.3.
   She has a long history of line-associated infections.  Exam findings
   and recent head CT findings concerning for septic emboli.  Had negative
   [**Year (4 digits) **] during last admission that did not show vegetations but has not had
   a TEE.  Line was exchanged [**2146-7-29**].  CT abd also show RLL pneumonia.
   - f/u blood cultures for sensitivities
   - continue surveillance cultures
   - continue daptomycin, meropenam, cipro, and micafungin
 meropenem and
   cipro sensitive
   - IVFs prn for MAP goal of 50.
   - Repeat [**Last Name (LF) **], [**First Name3 (LF) 178**] need TEE
   - restart TPN if have enough access, both lumens of new line were used
   - ID following, appreciate recs
   # Hypoxia:  CT Abdomen shows evience of right lower lobe PNA.  Sister
   reports patient has aspiration events at home and was planning for an
   outpatient EGD, which repeatedly has been cancelled due to
   hospitalizations.  Also had inadequately treated PEs seen in [**3-3**].
   - abx as above
   - attempt to coordinate EGD with TEE
   - would not heparinize [**12-27**] likely septic emboli in brain
   # Word-finding difficulties:  Occurred at last admission.  Neurology
   suspected septic emboli as we do.
   - d/w IR compatibility of stents with MRI
   - cont. abx
   - consider LP
   # Multiple line-related venous thromboses, h/o PE in [**3-3**]:  Pt is not
   on Coumadin due to antibiotic interactions. Her Lovenox was stopped in
   the past due to bleeding injections sites.
   - restart plavix if not intending to revise the line
   - would not heparinize [**12-27**] septic emboli unless head imaging negative
   # Acute renal failure:  Cr now back to baseline Cr of 0.7.  Likely
   prerenal as improved with IVFs with possible ATN, septic embolic,
   interstitial nephritis (though neg. urine eos). FeNa 2.2%.
   - re-dose abx
   - avoid nephrotoxins
   # Transaminitis:  Cholestatic pattern.  Resolved.  RUQ ultrasound
   unchanged from prior.
   # HCT drop:  Received several liters of IVFs and hemoconcentrated on
   admission.  Unclear of blood loss in IR.  DIC labs equivocal.
   - typed and screened
   - PM CBC
   - transfuse for HCT <21
   FEN: IVFs, consider restarting TPN, replete electrolytes
   Prophylaxis:  heparin sq
   Access: Hickman
   Code: DNR/DNI
   Communication: Patient and HCP [**Name (NI) 4065**] [**Name (NI) 3299**] (sister) [**Telephone/Fax (1) 10641**]
   (cell), [**Telephone/Fax (1) 10642**] (home), [**Telephone/Fax (1) 10643**] (work)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2146-9-16**] 08:18 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor